US07189852B2
Preparation of 4-amino-5-chloro-2-methoxybenzoic acid
Methyl 4-acetamido-5-chloro-2-methoxybenzoate is dissolved in ethanol and aqueous potassium hydroxide added. The solution is refluxed for a short time, cooled and concentrated hydrochloric acid added. The resulting precipitate is filtered off, washed with water and dried to give the title compound as a white solid.

reactant | Methyl 4-acetamido-5-chloro-2-methoxybenzoate | C(C)(=O)NC1=CC(=C(C(=O)OC)C=C1Cl)OC | C11H12ClNO4
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4-amino-5-chloro-2-methoxybenzoic acid | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
